US04602938
A mixture of 42 g (0.5 mol) of cyanoguanidine ("dicyanodiamide") and 50 g (0.5 mol) of 2,4-pentanedione ("acetylacetone") is heated to 120° C. for 15 hours. The reaction mixture is then cooled, after which 500 ml of water are added and the solution is acidified with hydrochloric acid at 0° C. to 10° C. The product obtained in crystalline form during this procedure is isolated by filtering it off under suction. 51.8 g (70% of theory) of 2-cyanoamino-4,6-dimethyl-pyrimidine of melting point 205° C. are obtained.

reactant | cyanoguanidine | 0.5 mol, 42 g | C(#N)NC(=N)N | C2H4N4
reactant | 2,4-pentanedione | 0.5 mol, 50 g | CC(CC(C)=O)=O | C5H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 500 ml | O | H2O
product | 2-cyanoamino-4,6-dimethyl-pyrimidine | 51.8 g, 70% | C(#N)NC1=NC(=CC(=N1)C)C | C7H8N4
